US08536209B2
(E)-N-[2-(5-Acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-3-p-tolyl-acrylamide
Following general procedure A followed by L, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and (E)-3-p-tolyl-acrylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(O1)CN1N=CC(=N1)N | C11H14N4O3
reactant | (E)-3-p-tolyl-acrylic acid | C1(=CC=C(C=C1)/C=C/C(=O)O)C | C10H10O2
product | (E)-N-[2-(5-Acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-3-p-tolyl-acrylamide | C(C)(=O)C1=CC=C(O1)CN1N=CC(=N1)NC(\C=C\C1=CC=C(C=C1)C)=O | C19H18N4O3
